US04788199
The procedure is as in Example 33, but starting with 4-phenyl-2-quinolinol (2.47 g), triethylamine (2.33 cc) and 1-(chlorocarbonyl)piperidine (2.47 g) in dimethylformamide (30 cc). The residue obtained is purified by chromatography on silica gel using a cyclohexane/ethyl acetate (80:20 by volume) eluant. 4-Phenyl-2-quinolyl 1-piperidinecarboxylate (0.51 g), m.p. 85° C., is thereby isolated.

reactant | 4-phenyl-2-quinolinol | 2.47 g | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)O | C15H11NO
reactant | triethylamine | 2.33 cc | C(C)N(CC)CC | C6H15N
reactant | 1-(chlorocarbonyl)piperidine | 2.47 g | ClC(=O)N1CCCCC1 | C6H10ClNO
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | 4-Phenyl-2-quinolyl 1-piperidinecarboxylate | 0.51 g | N1(CCCCC1)C(=O)OC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C21H20N2O2
